US06995176B2
Preparation of 2-(Phenylsulfonylmethyl)-1-nitrobenzene
A solution of nitrobenzene (3.08 g, 25.0 mmol) and chloromethylphenylsulfone (4.76 g, 25.0 mmol) in dry THF is cooled to −50° C. and treated with 1.0M KOtBu/THF (55.0 mL, 55.0 mmol). The reaction is allowed to warm to −30° C. over 1 h, treated with glacial acetic acid (3.6 mL), warmed to 20° C., treated with water and extracted with CH2Cl2. The combined extracts are dried over MgSO4 and concentrated in vacuo. Chromatography (1:1 ethyl acetate:hexanes) of the resultant residue give the title product as a white solid, 5.62 g, (81% yield), mp 106–108° C., identified by mass spectral and HNMR analyses.

reactant | nitrobenzene | 25.0 mmol, 3.08 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | chloromethylphenylsulfone | 25.0 mmol, 4.76 g | ClCS(=O)(=O)C1=CC=CC=C1 | C7H7ClO2S
reactant | KOtBu THF | 55.0 mmol, 1.0M, 55.0 mL | CC(C)(C)[O-].[K+].C1CCOC1
reactant | acetic acid | 3.6 mL | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(Phenylsulfonylmethyl)-1-nitrobenzene | 81% yield | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO4S
